US09216980B2
Preparation of 1-(2-Bromothiazol-4-ylmethyl)-piperidine
The title compound was prepared from (2-bromothiazol-4-yl)-methanol, following the procedure outlined above for 1-(4-bromo-2,6-difluoro-benzyl)-piperidine, to afford the title compound as a yellow oil. 1H NMR (CDCl3, 300 MHz): 7.09 (s, 1H), 3.61 (d, J=0.9 Hz, 2H), 3.19 (t, J=5.4 Hz, 1H), 2.45 (t, J=5.1 Hz, 4H), 1.69-1.62 (m, 4H), 1.48-1.41 (m, 2H). LCMS (Method B): RT=0.8 min, M+H+=261/263.

reactant | (2-bromothiazol-4-yl)-methanol | BrC=1SC=C(N1)CO | C4H4BrNOS
reactant | 1-(4-bromo-2,6-difluoro-benzyl)-piperidine | BrC1=CC(=C(CN2CCCCC2)C(=C1)F)F | C12H14BrF2N
product | 1-(2-Bromothiazol-4-ylmethyl)-piperidine | BrC=1SC=C(N1)CN1CCCCC1 | C9H13BrN2S
